US08604191B2
A suspension of (R)-2-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)malonic acid (15 g, 55 mmol) in toluene (150 mL) and dimethylsulfoxide (2 mL) was heated to reflux for a period of 2 h. The mixture was allowed to reach ambient and diluted with MTBE (150 mL). The organic solution was washed with 10% aqueous citric acid (2×200 mL), and the solvent was removed under vacuum to afford 11.6 g of (R)-2-(1-(tert-butoxycarbonyl)-pyrrolidin-3-yl)acetic acid as an off-white solid (92% yield). 1H NMR (DMSO-d6, 400 MHz): δ 12.1 (s, 1H); 3.36-3.48 (m, 1H); 3.20-3.34 (m, 1H); 3.05-3.19 (m, 1H, 2.72-2.84 (m, 1H); 2.30-2.42 (m, 1H), 2.22-2.30 (m, 2H); 1.85-2.00 (m, 1H); 1.38-1.54 (m, 1H), 1.35 (2, 9H).

reactant | (R)-2-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)malonic acid | 55 mmol, 15 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(C(=O)O)C(=O)O | C12H19NO6
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | MTBE | 150 mL | CC(C)(C)OC | C5H12O
product | (R)-2-(1-(tert-butoxycarbonyl)-pyrrolidin-3-yl)acetic acid | 11.6 g, 92% yield | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CC(=O)O | C11H19NO4
